US06281227B1
F. [1-(1Benzenesulfonyl-5-chloro-1H-pyrrolo[3,2-b]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester
The title compound is prepared from (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester as described in EXAMPLE 1, Part H using 1-benzenesulfonyl-2-bromomethyl-5-chloro-1H-pyrrolo[3,2-b]pyridine in place of 7-bromomethyl-1-chloro-isoquinoline. The crude product is purified by column chromatography eluting with a gradient of 15% EtOAc/hexanes to 50% EtOAc/hexanes to give the title compound as a beige solid.

reactant | (2-oxopyrrolidin-3-(S)-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(NCC1)=O)=O | C9H16N2O3
reactant | 1-benzenesulfonyl-2-bromomethyl-5-chloro-1H-pyrrolo[3,2-b]pyridine | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC2=NC(=CC=C21)Cl)CBr | C14H10BrClN2O2S
product | [1-(1Benzenesulfonyl-5-chloro-1H-pyrrolo[3,2-b]pyridin-2-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1C(N(CC1)CC1=CC2=NC(=CC=C2N1S(=O)(=O)C1=CC=CC=C1)Cl)=O)=O | C23H25ClN4O5S
